US04396772
(A) [Hydroxy(4-phenylbutyl)phosphinyl]acetic acid, phenylmethyl ester
A solution of benzyl chloroformate (1.8 ml, 12.6 mmol) in 5 ml of dry tetrahydrofuran was added dropwise to a solution of [hydroxy(4-phenylbutyl)phosphinyl]acetic acid (2.55 g, 10 mmol) and triethylamine (2.0 ml, 14.5 mmol) in 30 ml of dry tetrahydrofuran at 0° C. After addition was complete, the mixture was stirred at 0° C. for 30 minutes and at room temperature for 1 hour. The mixture was positioned between ethyl acetate and 5% KHSO4 and the ethyl acetate layer was evaporated to a residue. The residue was taken up in aqueous NaHCO3, washed with ethyl acetate, and the aqueous solution acidified to pH 1 and extracted with ethyl acetate. The extracts were dried (Na2SO4) and evaporated to give the crude product which was triturated with pentane to yield a solid, melting point 64°-67° C. (3.30 g).

reactant | benzyl chloroformate | 12.6 mmol, 1.8 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | [hydroxy(4-phenylbutyl)phosphinyl]acetic acid | 10 mmol, 2.55 g | OP(=O)(CCCCC1=CC=CC=C1)CC(=O)O | C12H17O4P
reactant | triethylamine | 14.5 mmol, 2.0 ml | C(C)N(CC)CC | C6H15N
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [Hydroxy(4-phenylbutyl)phosphinyl]acetic acid, phenylmethyl ester | OP(=O)(CCCCC1=CC=CC=C1)CC(=O)OCC1=CC=CC=C1 | C19H23O4P
